* C:\FOSSEE\eSim\library\SubcircuitLibrary\D_FF\D_FF.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/31/24 15:46:03

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  Net-_U1-Pad2_ Net-_X1-Pad2_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X5  Net-_X1-Pad2_ Net-_X10-Pad1_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X9  Net-_M1-Pad1_ Net-_X16-Pad2_ Net-_M5-Pad3_ Net-_U1-Pad6_ Net-_U1-Pad5_ NAND_Gate		
X10  Net-_X10-Pad1_ Net-_M5-Pad3_ Net-_M3-Pad1_ Net-_U1-Pad6_ Net-_U1-Pad5_ NAND_Gate		
X11  Net-_X10-Pad1_ Net-_M5-Pad1_ Net-_X11-Pad3_ Net-_U1-Pad6_ Net-_U1-Pad5_ NAND_Gate		
X16  Net-_X11-Pad3_ Net-_X16-Pad2_ Net-_M7-Pad1_ Net-_U1-Pad6_ Net-_U1-Pad5_ NAND_Gate		
X2  Net-_U1-Pad3_ Net-_X2-Pad2_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X6  Net-_X2-Pad2_ Net-_M1-Pad3_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X3  Net-_U1-Pad4_ Net-_X3-Pad2_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X7  Net-_X3-Pad2_ Net-_X16-Pad2_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
M1  Net-_M1-Pad1_ Net-_M1-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad1_ mosfet_p		
M2  Net-_M1-Pad1_ Net-_M2-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ mosfet_n		
M3  Net-_M3-Pad1_ Net-_M2-Pad2_ Net-_M1-Pad1_ Net-_M3-Pad1_ mosfet_p		
M4  Net-_M3-Pad1_ Net-_M1-Pad2_ Net-_M1-Pad1_ Net-_M1-Pad1_ mosfet_n		
M5  Net-_M5-Pad1_ Net-_M2-Pad2_ Net-_M5-Pad3_ Net-_M5-Pad1_ mosfet_p		
M6  Net-_M5-Pad1_ Net-_M1-Pad2_ Net-_M5-Pad3_ Net-_M5-Pad3_ mosfet_n		
M7  Net-_M7-Pad1_ Net-_M1-Pad2_ Net-_M5-Pad1_ Net-_M7-Pad1_ mosfet_p		
M8  Net-_M7-Pad1_ Net-_M2-Pad2_ Net-_M5-Pad1_ Net-_M5-Pad1_ mosfet_n		
X12  Net-_X11-Pad3_ Net-_X12-Pad2_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X14  Net-_X12-Pad2_ Net-_U1-Pad7_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X13  Net-_M7-Pad1_ Net-_X13-Pad2_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X15  Net-_X13-Pad2_ Net-_U1-Pad8_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X4  Net-_U1-Pad1_ Net-_M2-Pad2_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
X8  Net-_M2-Pad2_ Net-_M1-Pad2_ Net-_U1-Pad6_ Net-_U1-Pad5_ NOT_Gate		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ PORT		

.end
